Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([N:2]([C:3]([C:4](=[O:5])[O:6][C:7]([H:14])([H:15])[H:16])([H:12])[H:13])[H:11])([H:8])([H:9])[H:10]>>[C-:1]([N:2]([C+:3]([H:12])[H:13])[H:11])([H:8])[H:10].[C-:4]#[O+:5].[O:6]([C:7]([H:14])([H:15])[H:16])[H:9],66.9559974317673
[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[H:11])[H:10])([H:7])([H:8])[H:9]>>[C:1]([N:2]([H:8])[H:10])([H:7])[H:9].[C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[H:11],88.63043421243641
[N:3](=[N:4]/[N:5]=[N:6]/[H:8])\[H:7].[O+:1]#[C-:2]>>[O:1]=[c:2]1[n:3]([H:7])[n:4][n:5][n:6]1[H:8],11.479153069760102
[C:1]([C:2]([C:3]([C:4]([C:5]([O:6][C:7]([H:19])([H:20])[H:21])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C-:5](=[O+:6][C:7]([H:19])([H:20])[H:21])[H:17].[C:1]([C:2]([C:3]([C:4]([H:15])([H:16])[H:18])([H:13])[H:14])([H:11])[H:12])([H:8])([H:9])[H:10],72.68386259584071
[C:1]([C:2]([O:3]/[C:4](=[N:5]/[C:6]([H:13])([H:14])[H:15])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:10])[H:11])([H:7])[H:9].[O:3]=[C:4]([N:5]([C:6]([H:13])([H:14])[H:15])[H:8])[H:12],35.2056628125125
[C:2]1([C:5](=[O:6])[H:12])=[C:3]([H:8])[C:4]1([H:10])[H:11].[O:1]([H:7])[H:9]>>[O:1]([C:2]1([C:5](=[O:6])[H:12])[C:3]([H:8])([H:9])[C:4]1([H:10])[H:11])[H:7],29.736448912205603
[C:1]([C:2]([C@@:3]([O:4][H:13])([C:6](=[C:5])[H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C@@:3]([O:4][H:13])([C:5]#[C:6][H:14])[H:12])([H:10])[H:11])([H:7])([H:8])[H:9],12.924966589143096
[O:1]([C:2]1=[C:3]([H:7])[N:4]([H:8])[C:5]1([H:9])[H:10])[H:6]>>[O:1]=[C:2]1[C:3]([H:6])([H:7])[N:4]([H:8])[C:5]1([H:9])[H:10],56.359798162866994
[C:1]([C:2]([O:3][C:4]([C:5]([O:6][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([H:10])[H:11])([H:7])[H:8].[H:9][H:12].[O:3]=[C:4]([C:5]([O:6][H:16])([H:14])[H:15])[H:13],60.566349769065
[C:1]([C@@:2]([O:3][H:11])([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])[H:10])([H:7])([H:8])[H:9]>>[C:1](=[C:2]([O:3][H:11])[C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:7])[H:9].[H:8][H:10],98.87590013992408
[C:1]([C:2]#[C:3][C:4]([C:5]([H:11])([H:12])[H:13])([C:6]([H:14])([H:15])[H:16])[O:7][H:17])([H:8])([H:9])[H:10]>>[C:1]([C@:2]1([H:13])[C:3][C@@:4]([C:6]([H:14])([H:15])[H:16])([O:7][H:17])[C:5]1([H:11])[H:12])([H:8])([H:9])[H:10],92.7217794706555
[O:1]([C+:2]([C:3]#[N:4])[C:5](=[N-:6])[H:8])[H:7]>>[O:1]([C:2]([C:3]#[N:4])([C:5]#[N:6])[H:8])[H:7],18.678184501842495
[C:1](/[C:2](=[N:3]\[H:11])[O:4][C:5]([C:6](=[O:7])[H:14])([H:12])[H:13])([H:8])([H:9])[H:10]>>[C-:6]#[O+:7].[C:1](/[C:2](=[N:3]\[H:11])[H:14])([H:8])([H:9])[H:10].[O:4]=[C:5]([H:12])[H:13],58.9525471077273
[O:1]([C@@:2]1([H:8])[C:3]([H:9])([H:10])[C@:4]1([C:5]#[N:6])[H:11])[H:7]>>[O:1]([C:2](=[N+:6]=[C-:5][C:4](=[C:3]([H:9])[H:10])[H:11])[H:8])[H:7],59.4606985170869
[C:1]([N:2]([C+:3]=[C:4]=[N-:5])[H:11])([H:8])([H:9])[H:10].[C:6]=[N:7][H:12]>>[C:1]([N:2]([C:3]([C:4]#[N:5])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],5.354317379905105
[O:1]([C:2]([C:3]1([H:11])[C:4]([H:12])([H:13])[C:5](=[O:6])[C:7]1([H:14])[H:15])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@:3]([C:4]([H:12])([H:13])[H:14])([C:7](=[C:5]=[O:6])[H:15])[H:11])([H:9])[H:10])[H:8],68.5700010562834
[C:1]([C@@:2]1([H:11])[C:3]([H:12])=[C:4]([H:14])[O:5]/[C:6]1=[N:7]\[H:13])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([C:3]([C:4](=[O:5])[H:14])([H:12])[H:13])([C:6]#[N:7])[H:11])([H:8])([H:9])[H:10],76.96469379993125
[C:1]([C:2]([N:3]([N:7]=[C:6]=[C:4]=[N:5][H:14])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([N:3](/[C:4](=[N:5]/[H:14])[C:6]#[N:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],40.49469107068121
[C:1]([N:2]([C:3](=[O:4])[N+:5]([C-:6]([H:13])[H:14])=[C:7]([H:15])[H:16])[H:11])([H:8])([H:9])[H:10].[H:12][H:17]>>[C:1]([N:2]([C:3](=[O:4])[N:5]([C:6]([H:12])([H:13])[H:14])[C:7]([H:15])([H:16])[H:17])[H:11])([H:8])([H:9])[H:10],10.022065166508106
[C:1]([C@:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]=[C:7]1[H:16])([H:8])([H:9])[H:10].[H:15][H:17]>>[C:1]([C:2]1([O:3][H:11])[C:4]([H:12])([H:13])[C:5]([H:14])=[C:6]([H:15])[C:7]1([H:16])[H:17])([H:8])([H:9])[H:10],15.126125613354702
[C:1]([N:2]([N:7]=[C:6]=[C:3]([C:4]([O:5][H:15])([H:13])[H:14])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C@@:3]([C:4]([O:5][H:15])([H:13])[H:14])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],39.2802777832412
[N-:1]([N+:7]#[C:6][C:5]([C:4]([O+:3]=[C-:2][H:9])([H:10])[H:11])([H:12])[H:13])[H:8]>>[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8],6.920507116983998
[C:1]([C:2]1=[C:3]([H:11])[O:4][C:5]([H:13])([H:14])[O:6]1)([H:7])([H:8])[H:9].[H:10][H:12]>>[C:1]([C@@:2]1([H:10])[C:3]([H:11])([H:12])[O:4][C:5]([H:13])([H:14])[O:6]1)([H:7])([H:8])[H:9],67.69757921901
[C:1]1([H:7])([H:8])[N:2]([H:9])/[C:3]1=[C:4]([C:5](=[N:6]/[H:14])\[H:12])/[H:11].[H:10][H:13]>>[C:1]1([H:7])([H:8])[N:2]([H:9])[C@:3]1([C@@:4]1([H:11])[C:5]([H:12])([H:13])[N:6]1[H:14])[H:10],111.69011860962328
